US07208493B2
1-{[di-(2,4-Diaminopteridin-6-yl-methyl)]-amino-methyl}-naphthalene
To a solution of 6-bromomethyl-2,4-pteridinediamine hydrobromide (51 mg, 0.2 mmol) in anhydrous N,N dimethylacetamide was added 1-aminomethyl-naphthalene (31.67 ul, 0.22 mmol). The reaction mixture was stirred at 50° C. overnight. The crude product was poured into saturated bicarbonate solution. The resulted precipitate was collected and purified by preparative HPLC. 9 mg product was obtained. Yield: 15%; 1H NMR(500 MHz, DMSO-d6): δ 4.0970 (s, 4H), 4.2526 (s, 2H), 7.3530–7.3692 (dd, J1=7.25 Hz, J2=7.25 Hz, 2H), 7.439–7.5202 (m, 2H), 7.5414–7.5553 (d, J=6.94 Hz, 1H), 7.67408–7.69065 (d, J=8.285 Hz, 1H), 7.78789–7.7713 (d, J=8.285 Hz, 1H), 8.14819–8.1313 (d, J=8.44 Hz, 1H), 8.7144 (s, 2H), 8.93305 (s, 2H), 9.23424(s, 2H); ESI-MS: m/z 506 (M++1)

reactant | 6-bromomethyl-2,4-pteridinediamine hydrobromide | 0.2 mmol, 51 mg | Br.BrCC=1N=C2C(=NC(=NC2=NC1)N)N
reactant | 1-aminomethyl-naphthalene | 0.22 mmol, 31.67 ul | NCC1=CC=CC2=CC=CC=C12 | C11H11N
reactant | bicarbonate | C([O-])(O)=O
solvent | N,N dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 1-{[di-(2,4-Diaminopteridin-6-yl-methyl)]-amino-methyl}-naphthalene | 9 mg, Yield: 15% | NC1=NC2=NC=C(N=C2C(=N1)N)CC(C1=CC=CC2=CC=CC=C12)(N)CC=1N=C2C(=NC(=NC2=NC1)N)N | C25H23N13
